US05393755
2-[2-(2-Nitrocyclopentyl)ethyl]-1,3-dioxane
At -78° C., add 1-nitrocyclopentene (1.8 ml, 18.4 mmol) in THF (20 ml) to a THF solution (33 ml) of the zinc-copper reagent prepared from 2-(2-iodoethyl)-1,3-dioxane (5.6 gm, 23 mm), zinc powder (1.58 g), CuCN (1.9 g) and LiCl (1.7 g), according to the general procedure of P. Knochel et. al. (J, Org. Chem. 1989, 54, 5200). After 15 min. warm to 0° C. for one hour, then recool to -78° C. and add AcOH (2.0 ml). Warm to RT, add AcOH:0.1N HCl (15 ml, 1:2) and stir for one hr. Partition between EtOAc and brine. Concentrate the organic layer and purify by silica gel chromatography using EtOAc/Hex 1:3 to elute the title compound (3.6 g 15.7 mmol) as an oil. CI MS: M+1=230.

reactant | 1-nitrocyclopentene | 18.4 mmol, 1.8 ml | [N+](=O)([O-])C1=CCCC1 | C5H7NO2
reactant | 2-(2-iodoethyl)-1,3-dioxane | 5.6 gm | ICCC1OCCCO1 | C6H11IO2
reactant | CuCN | 1.9 g | C(#N)[Cu]
reactant | LiCl | 1.7 g | [Li+].[Cl-]
reactant | HCl | 0.1N, 15 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | zinc-copper | [Cu].[Zn]
catalyst | zinc | 1.58 g | [Zn] | Zn
solvent | THF | 33 ml | C1CCOC1 | C4H8O
solvent | AcOH | CC(=O)O | C2H4O2
solvent | AcOH | 2.0 ml | CC(=O)O | C2H4O2
product | 2-[2-(2-Nitrocyclopentyl)ethyl]-1,3-dioxane | 15.7 mmol, 3.6 g | [N+](=O)([O-])C1C(CCC1)CCC1OCCCO1 | C11H19NO4
